US06974806B2
Synthesis of 2-[4-(3-aminophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]-N-[4-chloro-2-(trifluoromethyl)phenyl]acetamide
A mixture solution of 2-[7-chloro-6-methyl-4-(3-nitrophenyl)-2-oxo-2H-chromen-3-yl]-N-[4-chloro-2-(trifluoromethyl)phenyl]acetamide (300 mg) in ethanol (2 ml) and THF (5 ml) was combined with Raney-nickel (50 mg), and stirred under hydrogen atmosphere at room temperature for 5 hours. After catalyst was filtered off, the reaction solution was concentrated. The resultant residue was purified by a silica gel chromatography (eluent: hexane-ethyl acetate=2:1), and further recrystallized from THF-ethyl acetate to obtain the title compound as a colorless crystal (166 mg, yield: 59%). Melting point: 206-207° C.

reactant | 2-[7-chloro-6-methyl-4-(3-nitrophenyl)-2-oxo-2H-chromen-3-yl]-N-[4-chloro-2-(trifluoromethyl)phenyl]acetamide | 300 mg | ClC1=C(C=C2C(=C(C(OC2=C1)=O)CC(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F)C1=CC(=CC=C1)[N+](=O)[O-])C | C25H15Cl2F3N2O5
solvent | ethanol | 2 ml | C(C)O | C2H6O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | Raney-nickel | 50 mg | [Ni] | Ni
product | 2-[4-(3-aminophenyl)-7-chloro-6-methyl-2-oxo-2H-chromen-3-yl]-N-[4-chloro-2-(trifluoromethyl)phenyl]acetamide | 166 mg, yield: 59% | NC=1C=C(C=CC1)C1=C(C(OC2=CC(=C(C=C12)C)Cl)=O)CC(=O)NC1=C(C=C(C=C1)Cl)C(F)(F)F | C25H17Cl2F3N2O3
